US07846960B2
(2-Fluoro-4-triisopropylsilanyloxy-phenyl)-carbamic Acid Tert-butyl Ester
A mixture of 2-fluoro-4-triisopropylsilanyloxy-phenylamine (6.2 g, 21.9 mmol) and di-t-butyldicarbonate (4.65 g, 20.7 mmol) in THF (100 mL) is stirred over night at 75° C. The mixture is concentrated under reduced pressure and purified on silica (120 g) eluting with 100% dichloromethane to provide 6.5 g of oil. The oil is purified on silica (120 g) eluting with a gradient of dichloromethane in heptane (10% to 70%) to provide the title compound (6.1 g, 73%) as a colorless oil. MS (ES) m/z 383.3.0 (M−1).

reactant | 2-fluoro-4-triisopropylsilanyloxy-phenylamine | 21.9 mmol, 6.2 g | FC1=C(C=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C)N | C15H26FNOSi
reactant | di-t-butyldicarbonate | 20.7 mmol, 4.65 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (2-Fluoro-4-triisopropylsilanyloxy-phenyl)-carbamic Acid Tert-butyl Ester | 6.5 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)F)=O | C20H34FNO3Si
